US04413052
3-(Methacryloyloxy)-2-hydroxypropyl anthracene-9-carboxylate
Anthracene-9-carboxylic acid (50 g) was added over 30 minutes with stirring to glycidyl methacrylate (33.9 g, epoxide content 6.6 equiv./kg) containing 0.13 g of 2,6-di-tert.butyl-p-cresol and 0.25 g of tetramethylammonium chloride and heated to 100° C. Heating at 100° C. was continued for a further 4 hours, by which time the epoxide content of the mixture had fallen to a negligibly low value. The resultant product was a brown, glassy solid.

reactant | Anthracene-9-carboxylic acid | 50 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)O | C15H10O2
reactant | glycidyl methacrylate | 33.9 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 2,6-di-tert.butyl-p-cresol | 0.13 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
catalyst | tetramethylammonium chloride | 0.25 g | [Cl-].C[N+](C)(C)C
product | 3-(Methacryloyloxy)-2-hydroxypropyl anthracene-9-carboxylate | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)OCC(COC(C(=C)C)=O)O | C22H20O5
